US06172057B2
2-(4-Methoxy-phenylsulfanyl)-octanoic acid ethyl ester was prepared according to the general method as outlined in example 9. Starting from ethyl 2-bromooctanoate (11.8 g, 47.3 mmol) and 4-methoxythiophenol (6 g, 43 mmol). Yield: 7.24 g (57%); clear oil; MS: 311.2 (M+H)+.

reactant | ethyl 2-bromooctanoate | 47.3 mmol, 11.8 g | BrC(C(=O)OCC)CCCCCC | C10H19BrO2
reactant | 4-methoxythiophenol | 43 mmol, 6 g | COC1=CC=C(C=C1)S | C7H8OS
product | 2-(4-Methoxy-phenylsulfanyl)-octanoic acid ethyl ester | C(C)OC(C(CCCCCC)SC1=CC=C(C=C1)OC)=O | C17H26O3S
